US07326720B2
1.75 g (0.0077 mol) of 4-(3-(trifluoromethyl)phenyl)-1,2,3,6-tetrahydropyridine, 30 ml of methanol, 1.15 ml of glacial acetic acid and 0.73 g of anhydrous ethyl acetate are mixed. The mixture is cooled to 0-5° C. and 1.14 g of 7-isoquinolylacetaldehyde (as obtained according to the Preparation) and, with care, 1.1 g (0.0175 mol) of sodium cyanoborohydride are added thereto. The mixture is stirred at 0-5° C. for 1.5 hours and subsequently at ambient temperature overnight. 7 ml of concentrated hydrochloric acid are added, the mixture is stirred for 10 minutes, the solvent is evaporated under reduced pressure and the residue is taken up in an ethyl acetate/dilute NH4OH mixture. The organic phase is dried over sodium sulfate and filtered, and the solvent is evaporated. The residue is purified on a column of silica gel, elution being carried out with an ethyl acetate/methanol=9/1 mixture. The title compound is obtained. The dihydrochloride is prepared using a solution of isopropanol saturated with hydrochloric acid. 1.1 g of product are obtained.

reactant | 4-(3-(trifluoromethyl)phenyl)-1,2,3,6-tetrahydropyridine | 0.0077 mol, 1.75 g | FC(C=1C=C(C=CC1)C=1CCNCC1)(F)F | C12H12F3N
reactant | methanol | 30 ml | CO | CH4O
reactant | acetic acid | 1.15 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 0.73 g | C(C)(=O)OCC | C4H8O2
product | 7-isoquinolylacetaldehyde | 1.14 g | C1=NC=CC2=CC=C(C=C12)CC=O | C11H9NO
